US09447086B2
Preparation of (2S,3R)-3-hydroxy-4-methyl-2-(toluene-4-sulfonylamino)-pentanoic acid methyl ester (Compound AO)
A mixture of (2S,3R)-2-amino-3-hydroxy-4-methyl-pentanoic acid methyl ester (0.50 g, 3.4 mmol) and triethylamine (0.69 g, 6.8 mmol) in dichloromethane (10 mL) was added 4-methyl-benzenesulfonyl chloride (0.71 g, 3.7 mmol) at 0° C. After stirring for 2 hours at room temperature, the mixture was washed with water and the organic layer was separated and then dried over sodium sulfate. After removal of solvent, the residue was used in next step without purification. MS: calc'd (MH+) 316, measured (MH+) 316.

reactant | (2S,3R)-2-amino-3-hydroxy-4-methyl-pentanoic acid methyl ester | 3.4 mmol, 0.50 g | COC([C@H]([C@@H](C(C)C)O)N)=O | C7H15NO3
reactant | triethylamine | 6.8 mmol, 0.69 g | C(C)N(CC)CC | C6H15N
reactant | 4-methyl-benzenesulfonyl chloride | 3.7 mmol, 0.71 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2S,3R)-3-hydroxy-4-methyl-2-(toluene-4-sulfonylamino)-pentanoic acid methyl ester | COC([C@H]([C@@H](C(C)C)O)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C14H21NO5S
